US06610694B1
Production of 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]-2-methylpropionic Acid
0.50 g of ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]-2-methylpropionate was dissolved in 3 ml of ethanol; 2.2 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 24 hours. After the ethanol was distilled off under reduced pressure, the residue was diluted with water and washed with ethyl acetate. To the water layer, 2.2 ml of 1 N hydrochloric acid was added; the mixture was saturated with sodium chloride and extracted with ethyl acetate-tetrahydrofuran (2:1); the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was powdered by the addition of ethyl acetate, collected by filtration, washed with ethyl acetate, and dried, to yield 0.203 g of the title compound.

reactant | ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]-2-methylpropionate | 0.50 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(N(N2)C(C(=O)OCC)(C)C)=O)C2=CC=CC=C2 | C32H40N6O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino]-3-oxo[1,2,4]triazolo[4,3-b]pyridazin-2(3H)-yl]-2-methylpropionic Acid | 0.203 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(N(N2)C(C(=O)O)(C)C)=O)C2=CC=CC=C2 | C30H36N6O4
